US04468395
2-{(E)-(1S,5R,6R)-7-Hydroxy-6-[(E)-(3S,4RS)-3-hydroxy-4-methyl-1-octenyl]-2-oxabicyclo[3.3.0]octan-3-ylidene}-5-(2-oxazolin-2-yl)pentanenitrile
Analogously to Example 4 from 78 mg (0.2 mmol) of 5-cyano-5-{(1S,5R,6R)-7-hydroxy-6-[(E)-(3S,4RS)-3-hydroxy-4-methyl-1-octenyl]-2-oxabicyclo[3.3.0]octan-3-ylidene}-pentanoic acid and ethanolamine. Yield: 60 mg (72% of theory).

reactant | 5-cyano-5-{(1S,5R,6R)-7-hydroxy-6-[(E)-(3S,4RS)-3-hydroxy-4-methyl-1-octenyl]-2-oxabicyclo[3.3.0]octan-3-ylidene}-pentanoic acid | 0.2 mmol, 78 mg | C(#N)C(CCCC(=O)O)=C1O[C@H]2CC([C@@H]([C@H]2C1)\C=C\[C@H](C(CCCC)C)O)O | C22H33NO5
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-{(E)-(1S,5R,6R)-7-Hydroxy-6-[(E)-(3S,4RS)-3-hydroxy-4-methyl-1-octenyl]-2-oxabicyclo[3.3.0]octan-3-ylidene}-5-(2-oxazolin-2-yl)pentanenitrile | OC1[C@@H]([C@H]2C/C(/O[C@H]2C1)=C(\C#N)/CCCC=1OCCN1)\C=C\[C@H](C(CCCC)C)O | C24H36N2O4
